US05668278
5-Amino-1-(3-chloro-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-2-yl)-4-cyanopyrazole
1.1 g (5.92 mmole) 3-Chloro-2-hydrazino-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine and 0.72 g (5.92 mmole) ethoxymethylenemalononitrile in 10 ml ethanol was heated at reflux for 2 hours. The resulting precipitate was suction filtered, washed with ethanol, dried and purified by silica gel column chromatography (hexane/ethyl acetate).

reactant | 3-Chloro-2-hydrazino-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine | 5.92 mmole, 1.1 g | ClC=1C(=NN2C1CCCC2)NN | C7H11ClN4
reactant | ethoxymethylenemalononitrile | 5.92 mmole, 0.72 g | C(C)OC=C(C#N)C#N | C6H6N2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-Amino-1-(3-chloro-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-2-yl)-4-cyanopyrazole | NC1=C(C=NN1C1=NN2C(CCCC2)=C1Cl)C#N | C11H11ClN6
